US05605910
D. 1-Amino-4-azatricyclo[5.2.2.02,6 ]undecane
8.3 g (32.6 mmol) of 1-amino-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene are hydrogenated in 100 ml of ethanol over 1 g of palladium/active charcoal at 100° C./100 bar. The catalyst is filtered off with suction, the filtrate is concentrated and the residue is distilled.

reactant | 1-amino-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene | 32.6 mmol, 8.3 g | NC12C3CN(CC3C(C=C1)CC2)CC2=CC=CC=C2 | C17H22N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium | 1 g | [Pd] | Pd
product | 1-Amino-4-azatricyclo[5.2.2.02,6 ]undecane | NC12C3CNCC3C(CC1)CC2 | C10H18N2
